US06335445B1
2,6-di-t-butylphenol (8 g, 39 mmoles) is dissolved in 25 ml of cyclohexane at 10° C. A (1/1) mixture of nitric acid/acetic acid (5 ml) is added dropwise to the reaction medium maintained at this temperature. Agitation is then carried out for 15 minutes at ambient temperature. Then the precipitate formed is filtered off, rinsed with water and pentane. The 2,6-di-t-butyl-4-nitrophenol obtained (6.34 g, 65%) is dried in an oven and will be used without further purification in the following stages. Pale yellow powder. Melting point: 167-168° C.

reactant | 2,6-di-t-butylphenol | 39 mmoles, 8 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | nitric acid acetic acid | 5 ml | [N+](=O)(O)[O-].C(C)(=O)O
solvent | cyclohexane | 25 ml | C1CCCCC1 | C6H12
product | 2,6-di-t-butyl-4-nitrophenol | C(C)(C)(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)(C)C)O | C14H21NO3
